US09353121B2
A mixture of the 4-fluorobenzaldehyde (300 μL, 2.87 mmol, 1.0 equ.), malononitrile (190 mg, 2.87 mmol, 1.0 equ.) and triethylamine (400 μL, 2.87 mmol, 1.0 equ.) in ethanol (10 mL) was stirred for 1 min, followed by the addition of 1-methyl-3-phenyl-1H-pyrazol-5(4H)-one (500 mg, 2.87 mmol, 1 equ.). The reaction mixture was concentrated after 20 h in vacuo and washed with ethanol and hexanes, and re-crystallized from ethanol to give 6-amino-4-(4-fluorophenyl)-1-methyl-3-phenyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitrile (182 mg, 0.525 mmol, 18%) as a light yellow solid. 1H-NMR (400 MHz) DMSO: 7.50-7.48 (d, 2H), 7.22-7.18 (m, 5H), 7.11 (s, 2H), 7.05-6.98 (t, 2H) 5.04 (s, 1H), 3.78 (s, 3H), 13C-NMR (100 MHz) DMSO: 162.5, 159.1, 146.0, 144.6, 140.9, 133.1, 129.8, 128.5, 127.9, 126.5, 120.4, 115.5, 115.3, 95.5, 59.7, 37.4, 34.5; LC/MS-MS: 347.1→281.0 m/z; GS1 and GS2 at 30, DP=66, CE=31, CXP=14, tR=4.00 min.

reactant | 4-fluorobenzaldehyde | 2.87 mmol, 300 μL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | malononitrile | 2.87 mmol, 190 mg | C(CC#N)#N | C3H2N2
reactant | triethylamine | 2.87 mmol, 400 μL | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-3-phenyl-1H-pyrazol-5(4H)-one | 2.87 mmol, 500 mg | CN1N=C(CC1=O)C1=CC=CC=C1 | C10H10N2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-amino-4-(4-fluorophenyl)-1-methyl-3-phenyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitrile | 0.525 mmol, 182 mg, 18% | NC1=C(C(C2=C(N(N=C2C2=CC=CC=C2)C)O1)C1=CC=C(C=C1)F)C#N | C20H15FN4O
